US07825253B2
3-({2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-ylamino}-methyl)-benzenesulfonamide
The title compound, MS: m/e=423.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3-formylbenzenesulfonamide (CAS 1778-37-6) as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-formylbenzenesulfonamide | C(=O)C=1C=C(C=CC1)S(=O)(=O)N | C7H7NO3S
product | 3-({2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-ylamino}-methyl)-benzenesulfonamide | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)NCC=1C=C(C=CC1)S(=O)(=O)N | C22H22N4O3S
